US04880808
A mixture of 7 parts of 3-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-N-(2,6-dichloro-4-nitrophenyl)-1-piperazineacetamide, 1 part of a solution of thiophene in methanol 4% and 120 parts of methanol was hydrogenated in a Parr apparatus and at 50° C. with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was converted into the hydrochloride salt in 2-propanol and acetonitrile. The salt was filtered off and dried, yielding 5.55 parts (77.7%) of 3-(aminocarbonyl)-N-(4-amino-2,6-dichlorophenyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-1-piperazineacetamide trihydrochloride; mp. 190.8° C. (compound 84).

reactant | 3-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-N-(2,6-dichloro-4-nitrophenyl)-1-piperazineacetamide | NC(=O)C1CN(CCN1CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C30H31Cl2F2N5O4
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | platinum-on-charcoal | [Pt] | Pt
product | 3-(aminocarbonyl)-N-(4-amino-2,6-dichlorophenyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-1-piperazineacetamide trihydrochloride | 77.7% | Cl.Cl.Cl.NC(=O)C1CN(CCN1CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=C(C=C1Cl)N)Cl | InChI=1S/C30H33Cl2F2N5O2.3ClH/c31-25-15-23(35)16-26(32)29(25)37-28(40)18-38-13-14-39(27(17-38)30(36)41)12-2-1-3-24(19-4-8-21(33)9-5-19)20-6-10-22(34)11-7-20;;;/h4-11,15-16,24,27H,1-3,12-14,17-18,35H2,(H2,36,41)(H,37,40);3*1H
